US05556864
3.50 g of this 1-(2-benzyloxyphenyl)-4-(3-chlorophenyl)butadiene were dissolved in 125 ml of a 4:1 by volume mixture of tetrahydrofuran and ethanol. The resulting solution was stirred for 4 hours in an atmosphere of hydrogen at atmospheric pressure and in the presence of 100 mg of 5% w/w palladium-on-charcoal, whilst ice-cooling. At the end of this time, the catalyst was removed by filtration, and the filtrate was concentrated by evaporation under reduced pressure. The resulting residue was then purified by column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 3.06 g (yield 86%) of 1-(2-benzyloxyphenyl)-4-(3-chlorophenyl)butane as a colorless oil.

reactant | 1-(2-benzyloxyphenyl)-4-(3-chlorophenyl)butadiene | 3.50 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC=CC1=CC(=CC=C1)Cl | C23H19ClO
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 1-(2-benzyloxyphenyl)-4-(3-chlorophenyl)butane | 3.06 g, yield 86% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCCC1=CC(=CC=C1)Cl | C23H23ClO
